US05190959
There was stirred at 120° C. for 4 hours a mixture of 6.74 g of phenyl-2-pyridylmethanol, 7.85 g of 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine, 11.0 g of concentrated sulfuric acid and 15 ml of toluene. After cooling, the reaction solution was poured into ice water, made alkaline with an aqueous sodium hydroxide, and extracted with toluene. The extract was washed with water, and toluene was removed under reduced pressure. The residue was eluted with ethyl acetate-ethanol-dichloromethane (1:1:1) by silica gel column chromatography to give 3.67 g of oily 4-(phenyl-2-pyridylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | phenyl-2-pyridylmethanol | 6.74 g | C1(=CC=CC=C1)C(O)C1=NC=CC=C1 | C12H11NO
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | 7.85 g | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
reactant | sulfuric acid | 11.0 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(phenyl-2-pyridylmethoxy)-1-[3-(2-nitrophenoxy)propyl]piperidine | 3.67 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=NC=CC=C1 | C26H29N3O4
